US05142092
b) 3-Chloro-4-trifluoromethoxy-benzonitrile
750 ml of SOCl2 were added to 239.5 g (1 mole) of 3-chloro-4-trifluoromethoxy-benzamide and the mixture was slowly heated (according to the evolution of gas) to 85° C. The mixture was then fractionally distilled and 189 g of product having a boiling point at 13 mbar of 96° C. and a melting point of 38° to 40° C. were obtained. This corresponds to a yield of 85% of theory.

reactant | 3-chloro-4-trifluoromethoxy-benzamide | 1 mole, 239.5 g | ClC=1C=C(C(=O)N)C=CC1OC(F)(F)F | C8H5ClF3NO2
solvent | SOCl2 | 750 ml | O=S(Cl)Cl | Cl2OS
product | 3-Chloro-4-trifluoromethoxy-benzonitrile | yield of 85% | ClC=1C=C(C#N)C=CC1OC(F)(F)F | C8H3ClF3NO
